US06455507B1
5,6-Difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole
As per General Procedure III. 5,6-difluoro-1H-benzimidazole (1.0 g, 6.5 mmol), N,O-bis(trimethlsilyl)acetamide (1.6 ml, 6.5 mmol), in 50 ml 1,2-dichloroethane (Aldrich Sure Seal, Milwaukee) were heated at 85° C. for 2.5 h under a nitrogen atmosphere then allowed to cool to rt. Trimethylsilyl trifluoromethanesulfonate (1.4 ml, 7.2 mmol) and 2.0 g (6.3 mmol) solid 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose (beta-D-ribopyranose 1,2,3,4-tetraacetate, Aldrich, Milwaukee) was added and the mixture was heated in an oil bath at 85° C. for 24 h under a nitrogen atmosphere. The reaction was then poured into 7% aqueous sodium bicarbonate and extracted with dichloromethane. The organic layer was dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was purified on a silica gel column (2.5×20 cm, 230-400 mesh) with CH2Cl2 and an increasing gradient of methanol from 0.5 to 2% to provide the title compound as a white foam (1.1 g, 2.6 mmol, 40%); MS (API+): m/z (rel. intensity) 524 (0.10, M+1); 1H NMR (DMSO-d6) δ8.47 (s,1H), 8.20-8.16 (m, 1H), 7.76-7.71 (m, 1H), 6.02-6.00 (d, 1H, J=9.5 Hz), 5.75-5.69 (m, 2H), 5.53-5.40 (m, 1H), 4.05-3.94 (m, 1H), 2.22 (s, 3H), 2.00 (s, 3H), 1.73 (s, 3H).

reactant | 5,6-difluoro-1H-benzimidazole | 6.5 mmol, 1.0 g | FC1=CC2=C(NC=N2)C=C1F | C7H4F2N2
reactant | N,O-bis(trimethlsilyl)acetamide | 6.5 mmol, 1.6 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | Trimethylsilyl trifluoromethanesulfonate | 7.2 mmol, 1.4 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3,4-tetra-O-acetyl-b-D-ribopyranose | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1 | C13H18O9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
product | 5,6-Difluoro-1-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 2.6 mmol, 1.1 g, 40% | FC1=CC2=C(N(C=N2)[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO2)C=C1F | C18H18F2N2O7
